US05821240
(29) 4-[(3-Chloro-4-fluorophenyl)amino]-6-[4-piperidinylmethylamino]pyrimido[5,4-d]pyrimidine
Prepared from 4-[(3-chloro-4-fluorophenyl)amino]-6-[(1-tert-butyloxycarbonyl-4-piperidinyl)methylamino]pyrimido[5,4-d]pyrimidine by reaction with trifluoroacetic acid. Melting point: 204°-206° C.; Rf : 0.42 (alumina; methanol chloride/methanol=10:1)

reactant | 4-[(3-chloro-4-fluorophenyl)amino]-6-[(1-tert-butyloxycarbonyl-4-piperidinyl)methylamino]pyrimido[5,4-d]pyrimidine | ClC=1C=C(C=CC1F)NC=1C2=C(N=CN1)C=NC(=N2)NCC2CCN(CC2)C(=O)OC(C)(C)C | C23H27ClFN7O2
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | methanol chloride methanol | [Cl-].CO.CO
product | 4-[(3-Chloro-4-fluorophenyl)amino]-6-[4-piperidinylmethylamino]pyrimido[5,4-d]pyrimidine | ClC=1C=C(C=CC1F)NC=1C2=C(N=CN1)C=NC(=N2)NCC2CCNCC2 | C18H19ClFN7
